US06489476B1
To a solution of 2-benzyloxymethyltetrazole (1 mmole) and TMEDA (2 mmole) in 3 mL diethyl ether at −78° C. was added n-BuLi in hexanes (1 mmole). This was let stir for 5 min at −78° C. and then it was added to a precooled (−78° C.) solution of (n-Bu)3SnCl (1 mmole) in 2 mL of diethyl ether. After stirring at −78° C. for 30 min it was diluted with water and diethyl ether. Extraction and chromatography provided 2-benzyloxymethyl-5-(tributylstannyl)tetrazole as a colorless oil.

reactant | 2-benzyloxymethyltetrazole | 1 mmole | C(C1=CC=CC=C1)OCN1N=CN=N1 | C9H10N4O
reactant | TMEDA | 2 mmole | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | [Li]CCCC
reactant | (n-Bu)3SnCl | 1 mmole | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-benzyloxymethyl-5-(tributylstannyl)tetrazole | C(C1=CC=CC=C1)OCN1N=C(N=N1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H9N4O.3C4H9.Sn/c1-2-4-9(5-3-1)6-14-8-13-11-7-10-12-13;3*1-3-4-2;/h1-5H,6,8H2;3*1,3-4H2,2H3;
